US04301279
3-hydroxy-7β-phenoxyacetylamino-cepham-4α-carboxylic acid diphenylmethyl ester
1.30 g of sodium borohydride are added in portions to a solution of 35.4 g of 3-hydroxy-7β-phenoxyacetylamino-3-cephem-4-carboxylic acid diphenylmethyl ester (crude product) in a mixture of 270 ml of dimethylformamide and 70 ml of glacial acetic acid in a stream of nitrogen while stirring and cooling with ice at approximately 15° to 20°. The reaction mixture is further stirred for one hour at room temperature, poured onto a mixture of ice and 2 N hydrochloric acid and extracted with ethyl acetate. The organic phase is washed successively with 2 N hydrochloric acid, water, saturated, aqueous sodium bicarbonate solution and saturated, aqueous sodium chloride solution, dried over sodium sulphate and concentrated in vacuo. The residue is substantially freed from dimethylformamide under a high vacuum and recrystallised from ethyl acetate and a little diethyl ether. The title compound is obtained which has a melting point of 167°-170°; Rf~0.47 (silica gel; toluene/ethyl acetate 1:1); [α]D20 =+88°± 1° (in chloroform, c=0.526%); IR spectrum (in CH2Cl2): Absorption bands up to 3580; 3410; 1780; 1740; 1695; 1600; 1518; 1494 cm-1.

reactant | sodium borohydride | 1.30 g | [BH4-].[Na+]
reactant | 3-hydroxy-7β-phenoxyacetylamino-3-cephem-4-carboxylic acid diphenylmethyl ester | 35.4 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(COC2=CC=CC=C2)=O)=O)O | C28H24N2O6S
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | dimethylformamide | 270 ml | CN(C=O)C | C3H7NO
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
product | 3-hydroxy-7β-phenoxyacetylamino-cepham-4α-carboxylic acid diphenylmethyl ester | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)[C@H]1C(CS[C@H]2N1C([C@H]2NC(COC2=CC=CC=C2)=O)=O)O | C28H26N2O6S
